US05866513
Method G: Preparation of 1-nitro-2-(2,3,4-trimethoxyphenyl)cyclopentane (Example 45)
A stirred solution of 1.78 g (6.4 mmol) of 1-nitro-5-(2,3,4-trimethoxyphenyl)-cyclopentene in 40 mL of THF and 40 mL of methanol was cooled in an ice bath and a 0.35 g (9.2 mmol) portion of solid NaBH4 was added. The mixture was stirred for 1 h and 0.38 g (10.0 mmol) of solid NaBH4 was added. The mixture was stirred for 1 h and 0.37 g (9.8 mmol) of solid NaBH4 was added. After stirring for 1 h, 100 mL of 5% aqueous HCl was added and the bulk of the THF and methanol were removed in vacuo. The residue was extracted with two 100 mL portions of ether. The combined ether extracts were washed with 30 mL of brine, dried over MgSO4 and the solvent removed in vacuo to leave 1.37 g of an oil. The crude product was purified by flash chromatography on a column of 30 g of silica gel eluted successively with 100 mL portions of 0, 10, 20, 30, 40, 50 and 60% ether in hexanes to afford 0.68 g of a 1:1 mixture of cis- and trans-1-nitro-2-(2,3,4-trimethoxyphenyl)cyclopentane (Example 45).

reactant | 1-nitro-5-(2,3,4-trimethoxyphenyl)-cyclopentene | 6.4 mmol, 1.78 g | [N+](=O)([O-])C1=CCCC1C1=C(C(=C(C=C1)OC)OC)OC | C14H17NO5
reactant | NaBH4 | [BH4-].[Na+]
reactant | HCl | 100 mL | Cl | ClH
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | methanol | 40 mL | CO | CH4O
product | 1-nitro-2-(2,3,4-trimethoxyphenyl)cyclopentane | 1.37 g | [N+](=O)([O-])C1C(CCC1)C1=C(C(=C(C=C1)OC)OC)OC | C14H19NO5
